US08809326B2
To 20.0 mL (215 mmol) of phosphorous oxychloride, cooled to 0 C, was added 5.00 g (25.7 mmol) of 6-amino-7-chloro-2H-isoquinolin-1-one in portions. The mixture was heated to 100° C. for 3 h then cooled to room temperature and poured over ice. After all of the ice had melted the pH of the mixture was adjusted to slightly alkaline by the slow addition of a 10% aqueous NaOH solution. A yellow solid precipitated from solution and was collected by filtration, washed with water and dried over anhydrous Na2SO4 to provide 3.0 g (55%) of 1,7-dichloro-isoquinolin-6-ylamine. MS calc. for C9H7Cl2N2 [M+H]+: 214.08. Found: 213.23 and 215.23.

reactant | phosphorous oxychloride | 215 mmol, 20.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 6-amino-7-chloro-2H-isoquinolin-1-one | 25.7 mmol, 5.00 g | NC=1C=C2C=CNC(C2=CC1Cl)=O | C9H7ClN2O
reactant | NaOH | [OH-].[Na+]
product | 1,7-dichloro-isoquinolin-6-ylamine | 3.0 g, 55% | ClC1=NC=CC2=CC(=C(C=C12)Cl)N | C9H6Cl2N2
